US08030500B2
4-Fluoro-1-(2-fluoro-5-(5-(methylsulfonyl)pyridin-3-yl)phenyl)-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described for Example 1 in 32% yield, starting from 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine (80 mg, 0.19 mmol) and 5-(methylsulfonyl)pyridin-3-ylboronic acid (50.5 mg, 0.25 mmol). 1H NMR (500 MHz, DMSO-d6, 298 K) δ ppm 9.07 (d, 1 H), 9.04 (d, 1 H), 8.39 (t, 1 H), 8.31 (d, 1 H), 7.84 (m, 1 H), 7.62-7.69 (m, 2 H), 7.56 (m, 1 H), 7.38 (dd, 1 H), 7.28-7.34 (m, 1 H), 7.04 (s, 1 H), 6.98 (dd, 1 H), 6.76 (br. s., 2 H), 3.37 (s, 3 H), 2.38 (s, 3 H); MS (ES+) m/z 491 (M+1).

reactant | 1-(5-bromo-2-fluorophenyl)-4-fluoro-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 0.19 mmol, 80 mg | BrC=1C=CC(=C(C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)C)F | C20H14BrF2N3
reactant | 5-(methylsulfonyl)pyridin-3-ylboronic acid | 0.25 mmol, 50.5 mg | CS(=O)(=O)C=1C=C(C=NC1)B(O)O | C6H8BNO4S
product | 4-Fluoro-1-(2-fluoro-5-(5-(methylsulfonyl)pyridin-3-yl)phenyl)-1-(2-methylpyridin-4-yl)-1H-isoindol-3-amine | 32% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C)C1=C(C=CC(=C1)C=1C=NC=C(C1)S(=O)(=O)C)F)N | C26H20F2N4O2S
